US04788312
To a 100 ml glass ampoule equipped with a magnetic stirring bar was added hexachoroplatinic acid (0.05 ml, 0.090M solution in isopropanol). After the solvent was removed under reduced pressure, bis(octenyl)dichlorosilane (6.02 g, 18.74 mmoles) was introduced into the ampoule in an inert atmosphere enclosure. Subsequently trichlorosilane (29.9 g, 198.6 mmoles) was condensed into the ampoule on the vacuum line. The in vacuo sealed ampoule was placed in an oil bath and heated up slowly to 110° C. at which temperature it was kept for twenty four hours. After opening the ampoule into the vacuum line, a small quantity of noncondensibles was observed. The excess trichlorosilane was distilled off to yield 10.53 g (94.9% yield) of bis (8-trichlorosilyloctyl)dichlorosilane.

reactant | bis(octenyl)dichlorosilane | 18.74 mmoles, 6.02 g | C(=CCCCCCC)[Si](Cl)(Cl)C=CCCCCCC | C16H30Cl2Si
reactant | trichlorosilane | 198.6 mmoles, 29.9 g | Cl[SiH](Cl)Cl | Cl3HSi
catalyst | hexachoroplatinic acid | 0.090M, 0.05 ml | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | bis (8-trichlorosilyloctyl)dichlorosilane | 10.53 g, 94.9% yield | Cl[Si](CCCCCCCC[Si](Cl)(Cl)CCCCCCCC[Si](Cl)(Cl)Cl)(Cl)Cl | C16H32Cl8Si3
